US06211234B1
A mixture of ethyl (RS)-4-(3-benzyloxy-phenoxy)-4-phenylbutanoate (1 g), aqueous potassium hydroxide solution (5 mL;10% w/v) and methanol (50 mL) is stirred at reflux for 30 minutes. The reaction mixture is then evaporated to dryness and the residue is partitioned between ethyl acetate (100 mL) and dilute hydrochloric acid (50 mL; 1 N). The organic layer is washed with water, dried over magnesium sulphate, filtered and concentrated under reduced pressure to give a brown oil, which slowly crystallises. Recrystallisation from cyclohexane gives (RS)-4-(3-benzyloxyphenoxy)-4-phenylbutanoic acid (0.55 g), in the form of a beige solid, m.p. 100-104° C. [Elemental analysis:- C,76.3;H,6.21%; Calculated:- C,76.2;H,6.12%].

reactant | ethyl (RS)-4-(3-benzyloxy-phenoxy)-4-phenylbutanoate | 1 g | C(C1=CC=CC=C1)OC=1C=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=CC1 | C25H26O4
reactant | potassium hydroxide | 5 mL | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | (RS)-4-(3-benzyloxyphenoxy)-4-phenylbutanoic acid | 0.55 g | C(C1=CC=CC=C1)OC=1C=C(OC(CCC(=O)O)C2=CC=CC=C2)C=CC1 | C23H22O4
